US04918215
4.77 g (20 mmols) of ethyl 4-chloroformylcinnamate, 4.04 g (20 mmols) of 4-bromostyrene, 2.72 g (20 mmols) of N-benzyldimethylamine and 0.0448 g (0.2 mmol) of palladium acetate are added under argon to 50 ml of p-xylene, and the reaction mixture is stirred at 130° C. for 1.5 hours. The product which has been precipitated is filtered off at room temperature and is then recrystallised from methanol. 0.73 g (10% of theory) of ethyl 4-bromostilbene-4'-acrylate is obtained in the form of yellow crystals; melting point 166.9° C.

reactant | ethyl 4-chloroformylcinnamate | 20 mmols, 4.77 g | ClC(=O)C1=CC=C(C=CC(=O)OCC)C=C1 | C12H11ClO3
reactant | 4-bromostyrene | 20 mmols, 4.04 g | BrC1=CC=C(C=C)C=C1 | C8H7Br
reactant | N-benzyldimethylamine | 20 mmols, 2.72 g | C(C1=CC=CC=C1)N(C)C | C9H13N
catalyst | palladium acetate | 0.2 mmol, 0.0448 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | p-xylene | 50 ml | CC=1C=CC(=CC1)C | C8H10
product | ethyl 4-bromostilbene-4'-acrylate | 0.73 g, 10% | BrC1=CC=C(C=C1)C=CC1=CC=C(C=C1)C=CC(=O)OCC | C19H17BrO2
